US04501860
Example 1 was repeated but substituting benzyl carbazate (41.5 g, 0.25 mole) for the ethyl carbazate and using phosgene (30 ml, 0.4 mole) in diethyl ether. 2-Benzyloxyhydrazinecarbonyl chloride was isolated as a solid (53 g, 93%) mp 62°-64° C., whose ir spectrum was similar to that of 2-ethoxycarbonylhydrazinecarbonyl chloride.

reactant | benzyl carbazate | 0.25 mole, 41.5 g | C(NN)(=O)OCC1=CC=CC=C1 | C8H10N2O2
reactant | ethyl carbazate | C(NN)(=O)OCC | C3H8N2O2
reactant | phosgene | 0.4 mole, 30 ml | C(=O)(Cl)Cl | CCl2O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-Benzyloxyhydrazinecarbonyl chloride | C(C1=CC=CC=C1)ONNC(=O)Cl | C8H9ClN2O2
